US07652032B2
3-benzoyl-5-benzofuranyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside
By carrying out the process in a manner similar to example 7, starting from 2,3,4-tri-O-acetyl-5-thio-D-xylopyranosyl bromide and 3-benzoyl-5-hydroxybenzofuran, the desired product is obtained in the form of a white solid with a yield of 20%.

reactant | 2,3,4-tri-O-acetyl-5-thio-D-xylopyranosyl bromide | C(C)(=O)O[C@H]1C(SC[C@H]([C@@H]1OC(C)=O)OC(C)=O)Br | C11H15BrO6S
reactant | 3-benzoyl-5-hydroxybenzofuran | C(C1=CC=CC=C1)(=O)C1=COC2=C1C=C(C=C2)O | C15H10O3
product | 3-benzoyl-5-benzofuranyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside | yield of 20% | C(C)(=O)O[C@H]1[C@H](OC=2C=CC3=C(C(=CO3)C(C3=CC=CC=C3)=O)C2)SC[C@H]([C@@H]1OC(C)=O)OC(C)=O | C26H24O9S
